US08865726B2
To a solution of (S)-2-(4-isopropyl-2-oxo-3-(3-(4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)imidazolidin-1-yl)ethyl 4-methylbenzenesulfonate (0.070 g, 0.098 mmol) in DMF was added (R)-3-fluoropyrrolidine hydrochloride (0.044 g, 0.49 mmol) and N-ethyl-N-isopropylpropan-2-amine (0.13 g, 0.98 mmol) and the reaction stirred for 4 days at ambient temperature. The reaction was poured into 1N NaOH and the aqueous layer extracted into EtOAc. The organics were washed with water, brine, dried over magnesium sulfate and concentrated in vacuo. The crude material was chromatographed using EtOAc to 3% MeOH/dichloromethane as eluent to yield (S)-1-(2-((R)-3-fluoropyrrolidin-1-yl)ethyl)-4-isopropyl-3-(3-(4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)imidazolidin-2-one (0.025 g, 40%).

reactant | (S)-2-(4-isopropyl-2-oxo-3-(3-(4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)imidazolidin-1-yl)ethyl 4-methylbenzenesulfonate | 0.098 mmol, 0.070 g | CC1=CC=C(C=C1)S(=O)(=O)OCCN1C(N([C@H](C1)C(C)C)C1=NC=2N(C=C1)N=CC2C2=CC=C(C=C2)C2=NN(C=N2)COCC[Si](C)(C)C)=O | C35H44N8O5SSi
reactant | (R)-3-fluoropyrrolidine hydrochloride | 0.49 mmol, 0.044 g | Cl.F[C@H]1CNCC1
reactant | N-ethyl-N-isopropylpropan-2-amine | 0.98 mmol, 0.13 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | NaOH | 1N | [OH-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
product | (S)-1-(2-((R)-3-fluoropyrrolidin-1-yl)ethyl)-4-isopropyl-3-(3-(4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)imidazolidin-2-one | 0.025 g, 40% | F[C@H]1CN(CC1)CCN1C(N([C@H](C1)C(C)C)C1=NC=2N(C=C1)N=CC2C2=CC=C(C=C2)C2=NN(C=N2)COCC[Si](C)(C)C)=O | C32H44FN9O2Si
